US05922719
7-(4-p-Tolyl-piperazin-1-ylmethyl)-chromen-2-one
A mixture of 6-bromomethyl coumarin (0.5 g, 2.09 mmol), 4-tolylpiperazine dihydrochloride (0.51 g, 2.53 mmol) and potassium carbonate (2 g, 14.5 mmol) in acetonitrile (100 mL) was heated under reflux for 18 hours. The cooled mixture was filtered and concentrated under vacuum to provide a solid. Recrystallization from ethyl acetate provided the product as plates (0.45 g, 64% yield), mp 154-155° C.

reactant | 6-bromomethyl coumarin | 2.09 mmol, 0.5 g | BrCC=1C=C2C=CC(OC2=CC1)=O | C10H7BrO2
reactant | 4-tolylpiperazine dihydrochloride | 2.53 mmol, 0.51 g | Cl.Cl.C1(=CC=C(C=C1)N1CCNCC1)C
reactant | potassium carbonate | 14.5 mmol, 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 7-(4-p-Tolyl-piperazin-1-ylmethyl)-chromen-2-one | 64% yield | C1(=CC=C(C=C1)N1CCN(CC1)CC1=CC=C2C=CC(OC2=C1)=O)C | C21H22N2O2
